### PR TITLE
Erdős Problem 142

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

File: FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean [hunk 1]
```diff
@@ -148,3 +154,12 @@ theorem Set.isAPOfLengthFree_zero (s : Set α) : s.IsAPOfLengthFree 0 := by
...
   simpa [Set.IsAPOfLengthFree] using ⟨s, le_rfl, ⟨hs, hl⟩⟩
+
+open Classical
+
+/--
+Let $r_k(N)$ be the largest possible size of a subset of $\{1, \dots, N\}$ that does not contain
+any non-trivial $k$-term arithmetic progression.
+-/
+noncomputable abbrev r (k : ℕ) (N : ℕ) : ℕ :=
+    ((Finset.Icc 1 N).powerset.filter fun S => S.toSet.IsAPOfLengthFree k).sup Finset.card
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean]: How about `sSup {Finset.card S | (S) (_ : S ⊆ Finset.Icc 1 N) (_ : S.toSet.IsAPOfLengthFree k)}` for a non-classical version?

Comment (smmercuri) [inline FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean]:
```suggestion
  ((Finset.Icc 1 N).powerset.filter fun S => S.toSet.IsAPOfLengthFree k).sup Finset.card
```

File: FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean [hunk 2]
```diff
@@ -148,3 +154,12 @@ theorem Set.isAPOfLengthFree_zero (s : Set α) : s.IsAPOfLengthFree 0 := by
...
     (hs : s.IsAPOfLength l) (hl : 1 < l) : ¬s.IsAPOfLengthFree l := by
   simpa [Set.IsAPOfLengthFree] using ⟨s, le_rfl, ⟨hs, hl⟩⟩
+
+open Classical
+
+/--
+Let $r_k(N)$ be the largest possible size of a subset of $\{1, \dots, N\}$ that does not contain
+any non-trivial $k$-term arithmetic progression.
+-/
+noncomputable abbrev r (k : ℕ) (N : ℕ) : ℕ :=
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean]: Now that this is in `ForMathlib` we should give it a proper name. Maybe something like `Set.IsAPOfLengthFree.maxCard`?

File: FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean [hunk 3]
```diff
@@ -14,8 +14,14 @@ See the License for the specific language governing permissions and
...
 
+import Mathlib.Algebra.CharP.Defs
 import Mathlib.Algebra.Module.NatInt
+import Mathlib.Algebra.Order.Star.Basic
+import Mathlib.Algebra.Ring.Regular
+import Mathlib.Data.ENat.Lattice
 import Mathlib.Data.Set.Card
+import Mathlib.Order.CompletePartialOrder
+import Mathlib.SetTheory.Cardinal.Finite
 import Mathlib.Tactic.IntervalCases
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean]: I'm surprised all these additional imports are required, but I'm getting the same from `#min_imports`. This seems to work ok for me
```suggestion
import Mathlib.Algebra.Module.NatInt
import Mathlib.Data.ENat.Lattice
import Mathlib.Data.Set.Card
import Mathlib.Tactic.IntervalCases
```

File: FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean [hunk 4]
```diff
@@ -148,3 +154,12 @@ theorem Set.isAPOfLengthFree_zero (s : Set α) : s.IsAPOfLengthFree 0 := by
 theorem Set.IsAPOfLength.not_isAPOfLengthFree {s : Set α} {l : ℕ∞}
     (hs : s.IsAPOfLength l) (hl : 1 < l) : ¬s.IsAPOfLengthFree l := by
   simpa [Set.IsAPOfLengthFree] using ⟨s, le_rfl, ⟨hs, hl⟩⟩
+
+open Classical
+
+/--
+Let $r_k(N)$ be the largest possible size of a subset of $\{1, \dots, N\}$ that does not contain
+any non-trivial $k$-term arithmetic progression.
+-/
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean]: Let's remove $r_k(N)$ notation from the docstring to reflect the name change

File: FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean (hunk 1 above)
Comment (mo271) [reply FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean]: nice! I suppose with a little effort one could make it even computable, but maybe not now..

File: FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean (hunk 2 above)
Comment (mo271) [reply FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean]: done, perhaps even making this a `def` and not a `abbrev`?

File: FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean (hunk 4 above)
Comment (mo271) [reply FormalConjectures/ForMathlib/Combinatorics/AP/Basic.lean]: done

**Comment by smmercuri** [comment]
This PR now only refactors $r_k(N)$, is that correct? I do not see `erdos_142` in the changes. If so, let's re-title the PR and I think this is ready to go!

**Comment by mo271** [comment]
> This PR now only refactors r k ( N ) , is that correct? I do not see `erdos_142` in the changes. If so, let's re-title the PR and I think this is ready to go!

oops, I forgot to `git add` that file..
Not it is there, please review...

File: FormalConjectures/ErdosProblems/142.lean [hunk 5]
```diff
@@ -0,0 +1,35 @@
...
+open Filter
+
+private noncomputable abbrev r := Set.IsAPOfLengthFree.maxCard
+
+/--
+Prove an asymptotic formula for $r_k(N)$, the largest possible size of a subset
+of $\{1, \dots, N\}$ that does not contain any non-trivial $k$-term arithmetic progression.
+-/
+@[category research open, AMS 11]
+theorem erdos_142 (k : ℕ) : (fun N => (r k N : ℝ)) =Θ[atTop] (answer(sorry) : ℕ → ℝ) := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/142.lean:37]: I think we should add big O and little o variants. The website also has a candidate solution for little o

Comment (mo271) [reply FormalConjectures/ErdosProblems/142.lean:37]: added those variants.

File: FormalConjectures/ErdosProblems/142.lean [hunk 6]
```diff
@@ -0,0 +1,70 @@
...
+theorem erdos_142 (k : ℕ) : (fun N => (r k N : ℝ)) =Θ[atTop] (answer(sorry) : ℕ → ℕ → ℝ) k := by
+  sorry
+
+/--
+Show that $r_k(N)=o_k(N/\log N)$, where $r_k(N)$ the largest possible size of a subset
+of $\{1, \dots, N\}$ that does not contain any non-trivial $k$-term arithmetic progression.
+-/
+@[category research open, AMS 11]
+theorem erdos_142.variants.lower (k : ℕ) :
+    (fun N => (r k N : ℝ)) =o[atTop] (fun N => N / (N : ℝ).log : ℕ → ℝ) := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/142.lean]:
```suggestion
    (fun N => (r k N : ℝ)) =o[atTop] (fun N : ℕ => N / (N : ℝ).log) := by
```

File: FormalConjectures/ErdosProblems/142.lean [hunk 7]
```diff
@@ -0,0 +1,70 @@
...
+namespace Erdos142
+
+private noncomputable abbrev r := Set.IsAPOfLengthFree.maxCard
+
+/--
+Prove an asymptotic formula for $r_k(N)$, the largest possible size of a subset
+of $\{1, \dots, N\}$ that does not contain any non-trivial $k$-term arithmetic progression.
+-/
+@[category research open, AMS 11]
+theorem erdos_142 (k : ℕ) : (fun N => (r k N : ℝ)) =Θ[atTop] (answer(sorry) : ℕ → ℕ → ℝ) k := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/142.lean]: I think you can just do the following?
```suggestion
theorem erdos_142 (k : ℕ) : (fun N => (r k N : ℝ)) =Θ[atTop] (answer(sorry) : ℕ → ℝ) := by
```

File: FormalConjectures/ErdosProblems/142.lean [hunk 8]
```diff
@@ -0,0 +1,70 @@
...
+
+
+-- TODO(firsching): at known upper bounds for small k
+
+/--
+Prove an asymptotic formula for $r_3(N)$, the largest possible size of a subset
+of $\{1, \dots, N\}$ that does not contain any non-trivial $3$-term arithmetic progression.
+-/
+@[category research open, AMS 11]
+theorem erdos_142.variants.three: (fun N => (r 3 N : ℝ)) =Θ[atTop] (answer(sorry) : ℕ → ℝ) := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/142.lean]:
```suggestion
theorem erdos_142.variants.three : (fun N => (r 3 N : ℝ)) =Θ[atTop] (answer(sorry) : ℕ → ℝ) := by
```

File: FormalConjectures/ErdosProblems/142.lean [hunk 9]
```diff
@@ -0,0 +1,70 @@
...
+  sorry
+
+
+/--
+Find functions $f_k$, such that $r_k(N)=O_k(f_k)$, where $r_k(N)$ the largest possible size of a
+subset of $\{1, \dots, N\}$ that does not contain any non-trivial $k$-term arithmetic progression.
+-/
+@[category research open, AMS 11]
+theorem erdos_142.variants.upper (k : ℕ) :
+    (fun N => (r k N : ℝ)) =O[atTop] (answer(sorry) : ℕ → ℕ → ℝ) k := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/142.lean]: as above
```suggestion
    (fun N => (r k N : ℝ)) =O[atTop] (answer(sorry) : ℕ → ℝ) := by
```

**Review by smmercuri — APPROVED** [review]
